US08124793B2
To a solution of 3.5 g of ethylene methanedisulfonate in 60 mL of glyme and 0.9 g of NaH was added 3.4 g of 1-chloromethylnaphthalene followed by 2.6 g of NaI. The solution was stirred overnight and the glyme removed by the rotary evaporator at 20 mm pressure. The residue was taken up in an acid solution and CH2Cl2. The CH2Cl2 was rinsed with a NaHSO3 solution, dried, concentrated, and cyclohexane was added to give 3.9 g (86%) of ethylene 2-naphthyl-1,1-ethanedisulfonate, m.p. 179-183° C. (94-2).

reactant | ethylene methanedisulfonate | 3.5 g | C1S(=O)(=O)OCCOS1(=O)=O | C3H6O6S2
reactant | NaH | 0.9 g | [H-].[Na+]
reactant | 1-chloromethylnaphthalene | 3.4 g | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | NaI | 2.6 g | [Na+].[I-]
reactant | glyme | 60 mL | C(OC)COC | C4H10O2
product | ethylene 2-naphthyl-1,1-ethanedisulfonate | 3.9 g, 86% | C1=C(C=CC2=CC=CC=C12)OS(=O)(=O)C(C)S(=O)(=O)O.C=C | InChI=1S/C12H12O6S2.C2H4/c1-9(19(13,14)15)20(16,17)18-12-7-6-10-4-2-3-5-11(10)8-12;1-2/h2-9H,1H3,(H,13,14,15);1-2H2
